US05296485
N-[1-(4-Cyanophenyl)-4-piperidinyl)-N'-(4-nitrophenyl)piperazine
2.5 g of 1-(4-cyanophenyl)-4-piperidone [cf. Taylor et al., Synthesis (1981) 606] and 5.2 g of 1-(4-nitrophenyl)piperazine were reacted as in Example 1.

reactant | 1-(4-cyanophenyl)-4-piperidone | 2.5 g | C(#N)C1=CC=C(C=C1)N1CCC(CC1)=O | C12H12N2O
reactant | 1-(4-nitrophenyl)piperazine | 5.2 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
product | N-[1-(4-Cyanophenyl)-4-piperidinyl)-N'-(4-nitrophenyl)piperazine | C(#N)C1=CC=C(C=C1)N1CCC(CC1)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C22H25N5O2
